US06403561B1
Preparation of 1-(N-benzyloxycarbonyl-L-alanyl)-5-methoxyindoline-2(R/S)-carboxylic Acid Butylamide
Triethylamine (1.12 ml, 8 mmol) and bis(2-oxo-3-oxazolidinyl)phosphinyl chloride (0.815 g, 3.2 mmol) were added to a cooled (0° C.) solution of 5-methoxyindoline-2(R/S)-carboxylic acid butylamide (0.500 g, 2.01 mmol) and N-benzyloxycarbonyl-L-alanine (0.4956 g, 2.22 mmol) dissolved in dichloromethane (25 ml), under nitrogen. The mixture was stirred at room temperature for 22 hours. It was then washed with 10% citric acid (3×30 ml), 5% NaHCO3 (3×30 ml) and water (30 ml). The organic phase was dried and concentrated and the residue was purified by chromatography on a column of silica gel, using a 1/1 petroleum ether/ethyl acetate mixture as eluent. A white solid was obtained.

reactant | Triethylamine | 8 mmol, 1.12 ml | C(C)N(CC)CC | C6H15N
reactant | bis(2-oxo-3-oxazolidinyl)phosphinyl chloride | 3.2 mmol, 0.815 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | 5-methoxyindoline-2(R/S)-carboxylic acid butylamide | 2.01 mmol, 0.500 g | C(CCC)NC(=O)C1NC2=CC=C(C=C2C1)OC | C14H20N2O2
reactant | N-benzyloxycarbonyl-L-alanine | 2.22 mmol, 0.4956 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 1-(N-benzyloxycarbonyl-L-alanyl)-5-methoxyindoline-2(R/S)-carboxylic Acid Butylamide | C(CCC)NC(=O)C1N(C2=CC=C(C=C2C1)OC)C([C@@H](NC(=O)OCC1=CC=CC=C1)C)=O | C25H31N3O5
